US06649634B2
5-Chloro-1H-indole-2-carbonyl fluoride
A solution of 5-chloro-1H-indole-2-carboxylic acid (10.0 g, 51.1 mmol) and pyridine (33.1 mmol) in acetonitrile was added to a solution of byanuric fluoride (2.76 g, 20.4 mmol) in acetonitrile (total 340 mL) at 25° C. The reaction was followed by TLC on aliquots quenched with butylamine and appeared nearly complete at 1 hour. The mixture was poured onto ice, extracted with ether, dried (Na2SO4), and concentrated giving a solid which was used without purification (10.0 g, 99%). TLC of a butylamine-quenched aliquot showed some 5-chloroindole-2-carboxylic acid and the less polar N-butylamide. A sample was purified by chromatography on silica gel eluting with ethyl acetate-hexanes (50-100%) for characterization (16368-130-1).

reactant | 5-chloro-1H-indole-2-carboxylic acid | 51.1 mmol, 10.0 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | pyridine | 33.1 mmol | N1=CC=CC=C1 | C5H5N
reactant | fluoride | 20.4 mmol, 2.76 g | [F-]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 340 mL | C(C)#N | C2H3N
product | 5-Chloro-1H-indole-2-carbonyl fluoride | ClC=1C=C2C=C(NC2=CC1)C(=O)F | C9H5ClFNO
